US06054470
A mixture of ethyl (4-dimethylaminophenyl)-2,2-dimethylacetate (1.00 g, 4.25 mmol) and sodium hydroxide (0.85 g) in ethanol (20 ml ) and water (9 mL) was heated under reflux for 18 hours. The mixture was cooled, acidified with 10% HCl, and washed with ethyl acetate. The aqueous phase was evaporated. The residue was dissolved in aqueous saturated sodium bicarbonate, and extracted with ethyl acetate. The organic phase was dried, filtered and evaporated to give (4-dimethylaminophenyl)-2,2-dimethylacetic acid as a faint red solid (0.81 g, 92%).

reactant | ethyl (4-dimethylaminophenyl)-2,2-dimethylacetate | 4.25 mmol, 1.00 g | CN(C1=CC=C(C=C1)C(C(=O)OCC)(C)C)C | C14H21NO2
reactant | sodium hydroxide | 0.85 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 9 mL | O | H2O
product | (4-dimethylaminophenyl)-2,2-dimethylacetic acid | 0.81 g, 92% | CN(C1=CC=C(C=C1)C(C(=O)O)(C)C)C | C12H17NO2
